US09282741B2
2.71 kg of 1,1,1-trifluoro-4-methoxy-but-3-en-2-on, 2.44 kg of ethanol and 3.10 kg of water were charged into a reaction vessel. 20 ml of concentrated hydrochloric acid and 0.80 kg of hydrazine hydrate were successively added and the mixture was heated to reflux for 4 h. The mixtures was allowed to cool and neutralized by addition of 10% aqueous NaOH to about pH 4-5. Then the mixture was evaporated. Toluene was added and the mixture was again evaporated to yield 2 kg of raw 3-trifluoromethyl-pyrazole with a purity of >85%.

reactant | 1,1,1-trifluoro-4-methoxy-but-3-en-2-on | 2.71 kg | FC(C(C=COC)=O)(F)F | C5H5F3O2
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | hydrazine hydrate | 0.80 kg | O.NN
reactant | NaOH | [OH-].[Na+]
solvent | water | 3.10 kg | O | H2O
solvent | ethanol | 2.44 kg | C(C)O | C2H6O
product | 3-trifluoromethyl-pyrazole | 2 kg | FC(C1=NNC=C1)(F)F | C4H3F3N2
